US05008263
8,9-Dimethyl-5-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-6H-imidazo[1,2-a][1,5]benzodiazepine
A mixture of 2,3-dihydro-7,8-dimethyl-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-thione (575 mg. 1.4 mmol), aminoacetaldehyde dimethyl acetal (294 mg, 2.8 mmol), and p-toluenesulphonic acid (14 mg) in n-butanol (7 ml) was heated at reflux for 8 hours under nitrogen. The solvent was removed under reduced pressure, and the residue was purified by flash chromatography (eluting with ethyl acetate/methanol=6:1). The intermediate thus obtained was dissolved in concentrated sulphuric acid (5 ml) and heated at 100° C. for 20 minutes. The mixture was cooled and poured onto ice, and then neutralised with saturated aqueous sodium bicarbonate. The product was extracted into dichloromethane (2×150 ml), and the combined extracts were dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography (eluting with ethyl acetate:methanol=6:1) gave the title compound as a buff solid, (180 mg, 31%), m.p. 193°-195° C. after dissolution in methanol and precipitation with acetone.

reactant | 2,3-dihydro-7,8-dimethyl-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-thione | 1.4 mmol, 575 mg | CC1=CC2=C(NC(CC(=N2)C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)=S)C=C1C | C24H21N5S
reactant | aminoacetaldehyde dimethyl acetal | 2.8 mmol, 294 mg | COC(CN)OC | C4H11NO2
reactant | p-toluenesulphonic acid | 14 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | n-butanol | 7 ml | C(CCC)O | C4H10O
solvent | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 8,9-Dimethyl-5-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-6H-imidazo[1,2-a][1,5]benzodiazepine | CC=1C(=CC2=C(NC(=CC=3N2C=CN3)C3=CC=C(C=C3)N3C(=NC=2C=NC=CC23)C)C1)C | C26H22N6
